US04844880
In U.S. Pat. No. 3,369,866, potassium hydroxide or carbonate and sulfur dioxide are reacted in potassium bisulfite solution at a pH of 4 to 7.5, and a temperature of 50° to 80° C. The solution is transferred to a second vessel where its pH is reduced to 5.5 by the addition of more sulfur dioxide in order to prevent precipitation of potassium sulfite, and the solution is cooled to 15° to 25° C. to obtain a crop of potassium metabisulfite crystals. The main concerns are to avoid product oxidation and the inclusion of sulfite in the product. No mention is made of crystal size.

reactant | potassium hydroxide | [OH-].[K+]
reactant | carbonate | C([O-])([O-])=O
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | potassium bisulfite | S([O-])(O)=O.[K+]
product | potassium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[K+].[K+] | InChI=1S/2K.H2O5S2/c;;1-6(2)7(3,4)5/h;;(H,1,2)(H,3,4,5)/q2*+1;/p-2
